US07091353B2
3-[(Thiophen-2-ylmethyl)-amino]-phthalic acid
3-[(Thiophen-2-ylmethyl)-amino]-phthalic acid dimethyl ester (0.88 g, 2.88 mmol) was treated in the same manner as described above for the synthesis 3-(2-methoxy-ethylamino)-phthalic acid. The product of the reaction, which contained a mixture of diacid and monomethyl esters, was used without further purification.

reactant | 3-[(Thiophen-2-ylmethyl)-amino]-phthalic acid dimethyl ester | 2.88 mmol, 0.88 g | COC(C=1C(C(=O)OC)=C(C=CC1)NCC=1SC=CC1)=O | C15H15NO4S
reactant | 3-(2-methoxy-ethylamino)-phthalic acid | COCCNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C11H13NO5
product | 3-[(Thiophen-2-ylmethyl)-amino]-phthalic acid | S1C(=CC=C1)CNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C13H11NO4S
